* PEX produced on Fri Aug 28 03:48:45 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from XNOR.ext - technology: ihp-sg13cmos5l

.subckt XNOR y GND VP a b
X0 a_1354_n176# a_622_n917# y VP sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.13u
X1 a_940_n917# a_622_n917# GND GND sg13_lv_nmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
X2 a_266_n917# a VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X3 y b a_938_n176# VP sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.13u
X4 a_622_n917# b GND GND sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X5 a_1348_n917# a_266_n917# y GND sg13_lv_nmos ad=55.5f pd=0.74u as=0.1005p ps=1.34u w=0.15u l=0.13u
X6 a_622_n917# b VP VP sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X7 y a a_940_n917# GND sg13_lv_nmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
X8 VP a_266_n917# a_1354_n176# VP sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.13u
X9 GND b a_1348_n917# GND sg13_lv_nmos ad=0.1005p pd=1.34u as=55.5f ps=0.74u w=0.15u l=0.13u
X10 a_938_n176# a VP VP sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.13u
X11 a_266_n917# a GND GND sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
C0 a_622_n917# y 0.26207f
C1 VP a_266_n917# 0.36867f
C2 VP y 0.15302f
C3 a b 0.40448f
C4 a_622_n917# b 1.14927f
C5 VP b 0.50305f
C6 a a_940_n917# 0.01014f
C7 VP a_1354_n176# 0.09529f
C8 a_622_n917# a 0.44998f
C9 y a_266_n917# 0.19153f
C10 VP a 0.47731f
C11 y a_1348_n917# 0.04319f
C12 VP a_938_n176# 0.09529f
C13 a_622_n917# VP 0.53214f
C14 b a_266_n917# 0.98683f
C15 a_1354_n176# a_266_n917# 0.01178f
C16 y b 0.32562f
C17 y a_1354_n176# 0.07825f
C18 a a_266_n917# 0.97793f
C19 y a 0.0863f
C20 y a_940_n917# 0.04296f
C21 y a_938_n176# 0.07813f
C22 a_622_n917# a_266_n917# 0.2366f
C23 y GND 1.58179f
C24 VP GND 0.83035f
C25 a_1348_n917# GND 0.72481f
C26 a_940_n917# GND 0.06565f
C27 a_1354_n176# GND 0.26728f
C28 a_938_n176# GND 0.35024f
.ends

