* PEX produced on Tue Apr 21 06:18:39 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1
* NGSPICE file created from inverter_x1.ext - technology: ihp-sg13g2

.subckt inverter_x1 IN OUT GND VP
X0 OUT.t0 IN.t0 VP.t1 VP.t0 sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X1 OUT.t1 IN.t0 GND.t1 GND.t0 sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
R0 OUT OUT.t0 17.6583
R1 OUT OUT.t1 17.4314
R2 IN IN.t0 7.66967
R3 VP VP.t1 17.2721
R4 VP VP.t0 3.77167
R5 GND.n2 GND.t0 947.369
R6 GND.n4 GND.n3 21.1588
R7 GND GND.t1 17.2899
R8 GND.n5 GND.n4 8.6367
R9 GND.n2 GND.n1 8.501
R10 GND.n3 GND.n2 5.54572
R11 GND.n5 GND.n0 2.10713
R12 GND GND.n5 0.150634
R13 GND.n3 GND.n0 0.0538314
R14 GND.n4 GND.n1 0.001
R15 GND.n1 GND.n0 0.001
C0 IN VP 0.07789f
C1 OUT IN 0.09325f
C2 OUT VP 0.04866f
C3 OUT GND 0.23256f
C4 IN GND 0.30663f
C5 VP GND 0.17626f
C6 VP.t0 GND 0.09856f
C7 IN.t0 GND 0.10471f
C8 OUT.t0 GND 0.02796f
C9 OUT.t1 GND 0.02738f
.ends

