* PEX produced on Tue Apr 21 06:11:40 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1
* NGSPICE file created from inverter_x2.ext - technology: ihp-sg13g2

.subckt inverter_x2 OUT GND VP IN
X0 OUT.t0 IN.t0 VP.t1 VP.t0 sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.13u
X1 OUT.t1 IN.t0 GND.t1 GND.t0 sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.13u
R0 OUT OUT.t0 17.638
R1 OUT OUT.t1 17.4111
R2 IN IN.t0 7.66967
R3 VP VP.t1 17.2721
R4 VP VP.t0 3.77167
R5 GND.n2 GND.t0 947.369
R6 GND.n4 GND.n3 21.1588
R7 GND GND.t1 17.2899
R8 GND.n5 GND.n4 8.6367
R9 GND.n2 GND.n1 8.501
R10 GND.n3 GND.n2 5.54572
R11 GND.n5 GND.n0 2.10713
R12 GND GND.n5 0.150634
R13 GND.n3 GND.n0 0.0538314
R14 GND.n4 GND.n1 0.001
R15 GND.n1 GND.n0 0.001
C0 IN VP 0.07354f
C1 IN OUT 0.1201f
C2 VP OUT 0.06114f
C3 OUT GND 0.27416f
C4 IN GND 0.30371f
C5 VP GND 0.17662f
C6 VP.t0 GND 0.10482f
C7 IN.t0 GND 0.12136f
C8 OUT.t0 GND 0.03318f
C9 OUT.t1 GND 0.03244f
.ends

