* PEX produced on Mon Aug 24 05:04:10 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from inverter_x8.ext - technology: ihp-sg13g2

.subckt inverter_x8 GND VP OUT IN
X0 OUT IN GND GND sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X1 OUT IN VP VP sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
C0 VP OUT 0.24105f
C1 VP IN 0.12371f
C2 OUT IN 0.08731f
C3 OUT GND 1.02289f
C4 VP GND 0.11952f
.ends

